US04391627
3-tert-Butylaminosulfonylbenzothiophene-2-carboxylic acid
N-tert-Butylbenzothiophene-3-sulfonamide (13.6 g) and 400 ml of anhydrous tetrahydrofuran in admixture were cooled to 0° and 120 ml of butyl lithium in hexane (1.6 molar) was added cautiously, dropwise. After the addition was completed the mixture was stirred at room temperature for 2 hours and carbon dioxide was then passed into the system for two hours while cooling to 15°. Two hundred ml of water was then cautiously added followed by 40 ml of 12 N hydrochloric acid. The solution was then evaporated to half of its original volume, extracted with methylene chloride and the organic phase washed with water, dried over magnesium sulfate, filtered and evaporated to dryness to yield a white solid of m.p. 180° with gas evolution. Nuclear Magnetic Resonance spectroscopy showed the t-butyl absorption at 1.3 δ (singlet) and benzothiophene hydrogen absorption at 7.4-8.0 (multiplet).

reactant | N-tert-Butylbenzothiophene-3-sulfonamide | 13.6 g | C(C)(C)(C)NS(=O)(=O)C1=CSC2=C1C=CC=C2 | C12H15NO2S2
reactant | butyl lithium | 120 ml | C(CCC)[Li]
reactant | carbon dioxide | C(=O)=O | CO2
reactant | hydrochloric acid | 12 N, 40 ml | Cl | ClH
solvent | hexane | 1.6 molar | CCCCCC | C6H14
solvent | water | Two hundred ml | O | H2O
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | 3-tert-Butylaminosulfonylbenzothiophene-2-carboxylic acid | C(C)(C)(C)NS(=O)(=O)C1=C(SC2=C1C=CC=C2)C(=O)O | C13H15NO4S2
